US09085583B2
To a solution of methyl 1-benzyl-2-methyl-1H-indole-3-carboxylate (446 mg, 1.6 mmol) in tetrahydrofuran (20 mL) and methanol (7 mL) was added sodium hydroxide (320 mg, 8 mmol) in water (7 mL), then stirred at 60° C. for 12 hours. The reaction mixture was concentrated in vacuo and acidified to PH=4 with 6 N hydrochloric acid, collected and dried to give 1-benzyl-2-methyl-1H-indole-3-carboxylic acid as a white solid (212 mg, 50%). LRMS (M+H+) m/z: calcd 265.11. found 265.

reactant | methyl 1-benzyl-2-methyl-1H-indole-3-carboxylate | 1.6 mmol, 446 mg | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)C(=O)OC)C | C18H17NO2
reactant | sodium hydroxide | 8 mmol, 320 mg | [OH-].[Na+]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 7 mL | CO | CH4O
solvent | water | 7 mL | O | H2O
product | 1-benzyl-2-methyl-1H-indole-3-carboxylic acid | 212 mg, 50% | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)C(=O)O)C | C17H15NO2
